US03931235
To a solution of 8.00 g. (0.0510 mole) of 4-hydroxy-3-mercapto-6-methyl-2-pyrone in 50 ml. of pyridine was added 11.0 g. (0.0510 mole) of p-nitrobenzyl bromide portionwise, keeping the temperature of the reaction mixture below 35°C. by means of an ice bath. After the addition was complete the reaction mixture was heated at 90°C. on the steam bath for two hours and 15 minutes. The mixture was then poured into ice and 100 ml. of concentrated hydrochloric acid. The cream colored solid precipitate was collected on a filter, washed with water and dried; m.p. 156°-160°C. (dec.), weight 12.2 g. (81 percent). Recrystallization from ethanol gave the pure 4-hydroxy-6-methyl-3-(4-nitrobenzylthio)-2-pyrone as tan crystals, m.p. 178°C.

reactant | 4-hydroxy-3-mercapto-6-methyl-2-pyrone | 0.0510 mole | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | p-nitrobenzyl bromide | 0.0510 mole | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy-6-methyl-3-(4-nitrobenzylthio)-2-pyrone | OC1=C(C(OC(=C1)C)=O)SCC1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO5S
